US05674482
A mixture of ethyl 4-hydroxyphenethyl sulfonate (0.42 g) in 12% aqueous hydrochloric acid (8 ml) is stirred at room temperature for about 18 hours and then heated at 100° C. for 5 hours, the concentrated in vacuo to give 4-hydroxyphenyethyl sulfonic acid.

reactant | ethyl 4-hydroxyphenethyl sulfonate | 0.42 g | OC1=CC=C(CCS(=O)(=O)OCC)C=C1 | C10H14O4S
solvent | hydrochloric acid | 8 ml | Cl | ClH
product | 4-hydroxyphenyethyl sulfonic acid | OC1=CC=C(C=C1)CCS(=O)(=O)O | C8H10O4S
